US05753757
1 ,2-DI(p-iodophenyl)-1-acetoxyethane:
1 ,2-di(p-bromophenyl)-hydroxyethane (17.8 g, 0.05 mol), potassium iodide (165 g), copper (I) iodide (95 g) and hexamethylphosphoramide (200 mL) was stirred at 150-160° C. for 48 h and then cooled. Work-up was as described in Example IV to provide a light yellow solid (10 g), which was the expected 1,2-di(p-iodophenyl)-1-hydroxyethane. A portion of this compound (7.2 g, 0.016 mol), acetic anhydride (16 mL), pyridine (16 mL) were heated at 60° C. for 30 min, followed by standing for 2 days. The resulting solution was worked up as in Example IlIl to provide an oil which solidified upon standing. The solid was crystallized from hexanes to provide the title compound as a light yellow solid (4.3 g).

reactant | 1,2-di(p-iodophenyl)-1-hydroxyethane | IC1=CC=C(C=C1)C(CC1=CC=C(C=C1)I)O | C14H12I2O
reactant | acetic anhydride | 16 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 1 ,2-DI(p-iodophenyl)-1-acetoxyethane | 4.3 g | IC1=CC=C(C=C1)C(CC1=CC=C(C=C1)I)OC(C)=O | C16H14I2O2
